US06207853B1
The tert-butylamine salt of 2-cyclohexylidenesuccinic acid 1-methyl ester (0.91 g, 3.2 mmol) was placed in a 60 mL high pressure hydrogenation vessel and the vessel was purged with hydrogen (by pressurizing and venting three times with 10 bar of hydrogen). Methanol (9 mL, previously degassed by bubbling nitrogen for one hour at room temperature under stirring) was added through the solvent port and the vessel was then cooled to 0° C. A solution of [Rh(COD)(RR)Me-BPE]OTf (0.004 g, 0.0065 mmol, substrate/catalyst: 500/1) in methanol (1 mL) was added and the reactor was charged with 10 bar of hydrogen. The reaction was stirred at 0° C. for 20 hours, then the solvent was evaporated under reduced pressure and the residue was partitioned between HCl 2N (20 mL) and ethyl acetate (20 mL). The organic layer was separated, dried over MgSO4, evaporated to give 0.75 g of 2-cyclohexylsuccinic acid monomethyl ester as a pale yellow oil (yield 82%). The enantiomeric excess of 2-(R)-cyclohexylsuccinic acid 1-methyl ester was 96% by GC.

reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
reactant | 2-cyclohexylidenesuccinic acid 1-methyl ester | 3.2 mmol, 0.91 g | COC(C(CC(=O)O)=C1CCCCC1)=O | C11H16O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1 mL | CO | CH4O
product | 2-cyclohexylsuccinic acid monomethyl ester | 0.75 g, yield 82% | COC(C(CC(=O)O)C1CCCCC1)=O | C11H18O4
